US05378718
2-(2,2-Dimethyl-3-hydroxypropoxy)benzaldehyde
A solution of 20 g of salicylaldehyde, 30 g of 3-bromo-2,2-dimethylpropanol and 22 g of potassium carbonate in DMF was refluxed for 24 hours. After evaporation, the residue was dissolved in ethyl acetate and the solution was washed with water. The organic phase was dried over magnesium sulfate and evaporated. The residue was purified by chromatography (silica; dichloromethane).

reactant | salicylaldehyde | 20 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 3-bromo-2,2-dimethylpropanol | 30 g | BrCC(CO)(C)C | C5H11BrO
reactant | potassium carbonate | 22 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(2,2-Dimethyl-3-hydroxypropoxy)benzaldehyde | CC(COC1=C(C=O)C=CC=C1)(CO)C | C12H16O3
